US07795267B2
1,1-Dimethylethyl 4-nitro-1H-benzimidazole-1-carboxylate
To a solution of 4-nitrobenzimidazole (0.74 g, 4.5 mmol) in tetrahydrofuran (30 mL) were sequentially added diisopropylethylamine (1.2 mL, 6.8 mmol), di-tert-butyl dicarbonate (1.6 mL, 6.8 mmol) and 4-(dimethylamino)pyridine (5 mg), and then the mixture was stirred at room temperature overnight. To the reaction solution was added ethyl acetate, and the resulting mixture was washed with a 0.5 M aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To the residue was added diethyl ether, and the resulting crystals were collected by filtration and washed with diethyl ether to obtain the title compound (1.0 g, yield 85%).

reactant | 4-nitrobenzimidazole | 4.5 mmol, 0.74 g | [N+](=O)([O-])C1=CC=CC=2N=CNC21 | C7H5N3O2
reactant | diisopropylethylamine | 6.8 mmol, 1.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 6.8 mmol, 1.6 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
catalyst | 4-(dimethylamino)pyridine | 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1,1-Dimethylethyl 4-nitro-1H-benzimidazole-1-carboxylate | 1.0 g, yield 85% | [N+](=O)([O-])C1=CC=CC=2N(C=NC21)C(=O)OC(C)(C)C | C12H13N3O4
